US09101616B2
Step-1: 5-(cyclopropylmethoxy)-2-methylpyridine
To a solution of 6-methylpyridin-3-ol (5.0 g, 46 mmol) in DMF (45 mL) were added cesium carbonate (16.5 g, 53 mmol) and (bromomethyl)cyclopropane (7.1 g, 53 mmol) at room temperature. After being stirred at room temperature for 18 hours, the mixture was poured into H2O, and the aqueous phase was extracted with ethyl acetate (twice). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (3:1 (v/v)) to give 3.9 g (52% yield) of the title compound as a yellow oil:

reactant | 6-methylpyridin-3-ol | 46 mmol, 5.0 g | CC1=CC=C(C=N1)O | C6H7NO
reactant | cesium carbonate | 53 mmol, 16.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (bromomethyl)cyclopropane | 53 mmol, 7.1 g | BrCC1CC1 | C4H7Br
reactant | H2O | O | H2O
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 5-(cyclopropylmethoxy)-2-methylpyridine | 3.9 g, 52% yield | C1(CC1)COC=1C=CC(=NC1)C | C10H13NO
